US09260441B2
Step A: tert-Butyl 4-(6-fluoro-4-methyl-2-pyridyl)piperazine-1-carboxylate
2-Bromo-6-fluoro-4-methylpyridine (380 mg, 2 mmol), tert-butyl piperazine-1-carboxylate (466 mg, 2.5 mmol), Pd2(DBA)3 (40 mg, 0.044 mmol), sodium tert-butoxide (317 mg, 3.3 mmol) and BINAP (80 mg, 0.032 mmol) were dissolved in anhydrous THF (6 ml) under argon and heated at 80° C. under microwave heating. The mixture was diluted with ethyl acetate, filtered, the filtrate was evaporated under reduced pressure. The residue was dissolved in DCM and filtered through a pad of silica. The silica was washed with a mixture of DCM and diethylether, the combined filtrates were concentrated under reduced pressure to yield 360 mg (1.22 mmol, yield 61%) MS (multi-mode) m/z=296.2 [M+1]+.

reactant | 2-Bromo-6-fluoro-4-methylpyridine | 2 mmol, 380 mg | BrC1=NC(=CC(=C1)C)F | C6H5BrFN
reactant | tert-butyl piperazine-1-carboxylate | 2.5 mmol, 466 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | sodium tert-butoxide | 3.3 mmol, 317 mg | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.032 mmol, 80 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(DBA)3 | 0.044 mmol, 40 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-Butyl 4-(6-fluoro-4-methyl-2-pyridyl)piperazine-1-carboxylate | yield 61% | FC1=CC(=CC(=N1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C15H22FN3O2
